US08258169B2
To a stirred solution of 2,4,6-trichloro-benzaldehyde (19 g, 90.69 mmol) and ammonium acetate (16.75 g, 217 mmol) in acetic acid (76 ml, 4 Vol.), nitroethane (45.1 ml, 625 mmol) was added in drops at a temperature of 0° C. The reaction mass was stirred at a temperature of 100° C. for 90 minutes. When the TLC confirmed the completion of the reaction, the reaction mass was allowed to attain ambient temperature and was diluted with ice cold water (700 ml), further aqueous layer was then extracted with ethyl acetate (3×50 ml). Combined ethyl acetate layer was washed with saturated sodium bicarbonate solution to neutral pH, then with water, followed by brine wash and dried under anhydrous Na2SO4 before the complete evaporation of solvents. The resulting crude mass was purified by column chromatography using 60-120μ mesh silica gel and product collected at 1% ethyl acetate in hexane as elution system to give 1,3,5-trichloro-2-((E)-2-nitro-propenyl)-benzene (15 g, 61%)

reactant | 2,4,6-trichloro-benzaldehyde | 90.69 mmol, 19 g | ClC1=C(C=O)C(=CC(=C1)Cl)Cl | C7H3Cl3O
reactant | ammonium acetate | 217 mmol, 16.75 g | C(C)(=O)[O-].[NH4+]
reactant | nitroethane | 625 mmol, 45.1 ml | [N+](=O)([O-])CC | C2H5NO2
solvent | acetic acid | 76 ml | C(C)(=O)O | C2H4O2
product | 1,3,5-trichloro-2-((E)-2-nitro-propenyl)-benzene | 15 g, 61% | ClC1=C(C(=CC(=C1)Cl)Cl)\C=C(/C)\[N+](=O)[O-] | C9H6Cl3NO2
